US04923869
A mixture of 17 g of isonicotinoyl chloride, 21.8 g of 5-methyl-6-(3,4-diaminophenyl)-4,5-dihydropyridazin-3-one ("IIa"; m.p. 195°-196°) and 400 ml of chlorobenzene is boiled for 2 hours. After having been cooled, the usual working up is carried out and, initially, an oily mixture of 5-methyl-6-(3-amino-4-isonicotinamidophenyl)- and 5-methyl-6-(3-isonicotinamido-4-aminophenyl)-4,5-dihydropyridazin-3-one is obtained, which is dissolved in 400 ml of acetic acid and boiled for 3 hours. After having been cooled, 5-methyl-6-[2-(4-pyridyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one ("M"), dihydrate, m.p.195°-198° (decomposition) is obtained. Dihydrochloride-dihydrate, m.p. 224°-227°. Methanesulphonate, m.p. 282°-285°.

reactant | isonicotinoyl chloride | 17 g | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | 5-methyl-6-(3,4-diaminophenyl)-4,5-dihydropyridazin-3-one | 21.8 g | CC1CC(NN=C1C1=CC(=C(C=C1)N)N)=O | C11H14N4O
reactant | chlorobenzene | 400 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-6-[2-(4-pyridyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one | CC1CC(NN=C1C1=CC2=C(N=C(N2)C2=CC=NC=C2)C=C1)=O | C17H15N5O
